US04721791
3,5-Di(trichlorovinyl)benzyl bromide
A solution of 3,5-di(trichlorovinyl)toluene (6.0 g) and dibenzoyl peroxide (200 mg) in 150 ml of benzene was heated at reflux. N-Bromosuccinimide (3.6 g) was added in portions and the reaction mixture stirred at reflux for 3 hours. The mixture was evaporated and the residue triturated with 200 ml of hexane. The precipitated succinimide was collected and the filtrate concentrated to five 7.9 g of crude benzyl bromide.

reactant | 3,5-di(trichlorovinyl)toluene | 6.0 g | ClC(=C(Cl)Cl)C=1C=C(C=C(C1)C(=C(Cl)Cl)Cl)C | C11H6Cl6
reactant | dibenzoyl peroxide | 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-Bromosuccinimide | 3.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 3,5-Di(trichlorovinyl)benzyl bromide | ClC(=C(Cl)Cl)C=1C=C(CBr)C=C(C1)C(=C(Cl)Cl)Cl | C11H5BrCl6
